US07153854B2
To a solution of ethyl 6-[4-(4-cyanophenyl)-7-ethyl-2-methylpyrrolo[1,2-b]pyridazin-3-yl]hexanoate (1.5 g) in tetrahydrofuran (15 ml) was added 2N potassium hydroxide (7.4 ml), followed by methanol (7.4 ml). After stirring at 50° C. for 2 hours and 60° C. for 3 hours, the mixture was partitioned between 1N hydrochloric acid and ethyl acetate. The precipitates were filtered and washed with ethyl acetate. The organic layer and the washings were combined, washed with water and brine, dried over magnesium sulfate, and evaporated. The residue was triturated with ethyl acetate and the precipitates were filtered. The filtrate was purified by silica gel column chromatograpy eluting with a mixture of ethyl acetate and hexane (1:1) and triturated with isopropyl ether to give 6-[4-(4-cyanophenyl)-7-ethyl-2-methylpyrrolo[1,2-b]pyridazin-3-yl]hexanoic acid (650 mg) as an yellow crystals. The two precipitates were combined and recrystallized from ethyl acetate to give 6-{4-[4-(aminocarbonyl)phenyl]-7-ethyl-2-methylpyrrolo[1,2-b]pyridazin-3-yl}hexanoic acid (550 mg, 37.6%) as an yellow crystals.

reactant | ethyl 6-[4-(4-cyanophenyl)-7-ethyl-2-methylpyrrolo[1,2-b]pyridazin-3-yl]hexanoate | 1.5 g | C(#N)C1=CC=C(C=C1)C=1C=2N(N=C(C1CCCCCC(=O)OCC)C)C(=CC2)CC | C25H29N3O2
reactant | potassium hydroxide | 2N, 7.4 ml | [OH-].[K+]
reactant | methanol | 7.4 ml | CO | CH4O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 6-[4-(4-cyanophenyl)-7-ethyl-2-methylpyrrolo[1,2-b]pyridazin-3-yl]hexanoic acid | 650 mg | C(#N)C1=CC=C(C=C1)C=1C=2N(N=C(C1CCCCCC(=O)O)C)C(=CC2)CC | C23H25N3O2
